US07291616B2
{4-[4-Chloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2-ylamino]-phenyl}-methanol
The reaction of 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine and 4-aminobenzyl alcohol using the method described in Example 37 provided the title compound (50 mg, 62% yield). 1H NMR (DMSO-d6) 9.52 (br s, 1H), 7.77 (s, 1H), 7.70 (s, 2H), 7.42 (d, 1H), 7.33 (d, 1H), 7.24 (m, 4H), 5.07 (m, 1H), 4.45 (d, J=5.7 Hz, 2H), 2.52 (s, 3H).

reactant | 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)C | C10H6Cl3N3
reactant | 4-aminobenzyl alcohol | NC1=CC=C(CO)C=C1 | C7H9NO
product | {4-[4-Chloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2-ylamino]-phenyl}-methanol | 50 mg, 62% yield | ClC1=NC(=NC(=N1)C1=C(C=CC(=C1)Cl)C)NC1=CC=C(C=C1)CO | C17H14Cl2N4O
